US04558047
[R-(R*, R*)]-α-(1-Formyl-2-hydroxyethoxy)-1,6-dihydro-6-oxo-9H-purine-9-acetaldehyde, (inosinedialdehyde), (2.66 g) was dissolved in a mixture of methanol (100 ml) and water (100 ml). To the solution was added adenine (1.35 g). The mixture was stirred at ambient temperature for one day and filtered. The filtrate was evaporated in vacuo at 35° C. The residue was triturated with acetone to give 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(6-purinyl)morpholin-2-yl]hypoxanthine (3.20 g).

reactant | α-(1-Formyl-2-hydroxyethoxy)-1,6-dihydro-6-oxo-9H-purine-9-acetaldehyde | 2.66 g | C(=O)C(CO)OC(C=O)N1C=2N=CNC(C2N=C1)=O | C10H10N4O5
reactant | adenine | 1.35 g | N1=CN=C2N=CNC2=C1N | C5H5N5
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(6-purinyl)morpholin-2-yl]hypoxanthine | 3.20 g | OC1N(C([C@H](O[C@H]1N1C=2N=CNC(C2N=C1)=O)CO)O)C1=C2NC=NC2=NC=N1 | C15H15N9O5
